US08445684B2
3-[1-(tert-Butoxycarbonyl)-3-pyrrolidinyl]-1-propanol
To a solution of 3-(3-pyrrolidinyl)-1-propanol (1.60 g, 12.4 mmol) and K2CO3 (5.0 g, 36 mmol, 2.9 equiv.) in THF/H2O (80/80 mL) was added di-tert-butyl dicarbonate (3.4 mL, 14.8 mmol, 1.2 equiv.) at room temperature under N2. The solution was stirred for 16 h at room temperature. Saturated aqueous NH4Cl solution (30 mL) was added. The mixture was extracted with EtOAc, and the organic phase was concentrated under vacuum. The residue was purified by CC (SiO2, EtOAc/petroleum ether 1:2) to afford a light-yellow solid (1.60 g, 56%). 1H NMR (CDCl3, 300 MHz) δ 3.68 (t, 2H, J=6.3 Hz), 3.57 (dd, 1H, J=7.5, 10.5 Hz), 3.44-3.51 (m, 1H), 3.22-3.31 (m, 1H), 2.90 (dd, 1H, J=8.7, 10.5 Hz), 2.09-2.17 (m, 1H), 1.97-2.06 (m, 1H), 1.57-1.69 (m, 3H), 1.49-1.53 (m, 2H), 1.48 (s, 9H). LC-MS (ESI) m/z 230 (M+H+).

reactant | 3-(3-pyrrolidinyl)-1-propanol | 12.4 mmol, 1.60 g | N1CC(CC1)CCCO | C7H15NO
reactant | K2CO3 | 36 mmol, 5.0 g, 2.9 equiv. | C(=O)([O-])[O-].[K+].[K+]
reactant | di-tert-butyl dicarbonate | 14.8 mmol, 3.4 mL, 1.2 equiv. | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | NH4Cl | 30 mL | [NH4+].[Cl-]
solvent | THF H2O | 80 mL | C1CCOC1.O
product | 3-[1-(tert-Butoxycarbonyl)-3-pyrrolidinyl]-1-propanol | 1.60 g, 56% | C(C)(C)(C)OC(=O)N1CC(CC1)CCCO | C12H23NO3
